US08404687B2
(S)-1-(4-Fluorophenyl)-4-(3-methylpiperazin-1-yl)phthalazine
Cool methanol (2.82 L) to 0° C. via a 1:1 acetone/water bath with dry ice, and add acetyl chloride (142 mL, 2.0 mol) dropwise over a period of 30 min, maintaining the temperature below 15° C. during the addition. Stir the mixture for 15 min. Add (S)-tert-butyl 4-(4-(4-fluorophenyl)phthalazin-1-yl)-2-methylpiperazine-1-carboxylate (282 g, 667 mmol) in one portion. Stir the mixture for 12 h at 25° C. Concentrate, and dissolve the residue in water (3.0 L). Add solid NaHCO3 until the pH is 7. Extract the product with CH2Cl2 (2×2.0 L), combine the organic layers, and concentrate to give the title compound as a brown crushable foam in quantitative yield (236 g, >100%). ES/MS m/z 323.0 (M+1).

reactant | methanol | 2.82 L | CO | CH4O
reactant | dry ice | C(=O)=O | CO2
reactant | acetyl chloride | 2.0 mol, 142 mL | C(C)(=O)Cl | C2H3ClO
reactant | (S)-tert-butyl 4-(4-(4-fluorophenyl)phthalazin-1-yl)-2-methylpiperazine-1-carboxylate | 667 mmol, 282 g | FC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C24H27FN4O2
solvent | acetone water | CC(=O)C.O
product | (S)-1-(4-Fluorophenyl)-4-(3-methylpiperazin-1-yl)phthalazine | quantitative yield | FC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N1C[C@@H](NCC1)C | C19H19FN4
